US06601732B1
(a) Preparation of 2-(1-bromoethyl)-anthraquinone (BEAQ)
A mixture of 2-ethylanthraquinone (25 Kg, 105.9 mol), NBS (19.1 Kg, 107.3 mol) and benzoyl peroxide (70%, 200 g, 0.58 mol) in CCl4 (˜150L) is stirred at reflux for 1.5 hours. On cooling, the precipitate is collected by filtration and washed on the filter with ethanol, hot water and finally ethanol again. After drying, this may be used without further purification (i.e. recrystallisation from benzene/methanol (1:1)).

reactant | 2-ethylanthraquinone | 105.9 mol, 25 Kg | C(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C16H12O2
reactant | NBS | 107.3 mol, 19.1 Kg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.58 mol, 200 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(1-bromoethyl)-anthraquinone | BrC(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C16H11BrO2
